US06420409B1
Under nitrogen atmosphere, a solution (520 ml) of 1.6 M n-butyl lithium in hexane was added slowly to a solution (480 ml) of diisopropylamine (120 ml) in tetrahydrofuran at −60 to −50° C. and the solution was stirred for 1 hour in an ice bath. The solution was cooled to −50° C. and a solution (100 ml) of N-t-butylmethane-sulfonamide (60.0 g) in tetrahydrofuran was added dropwise thereto taking 45 minutes. The temperature of the solution was raised to 0° C. taking 1 hour and the solution was stirred for 45 minutes in an ice bath. It was cooled to −40° C. and a solution (50 ml) of butylene oxide (42.9 g)in tetrahydrofuran was added thereto at −40 to −30° C. The temperature of the solution was raised slowly to room temperature and the solution was stirred overnight. The reaction was stopped by adding water in an ice bath. The solution was made acidic with dilute hydrochloric acid and the tetrahydrofuran layer was separated. The aqueous layer was extracted with chloroform. The tetrahydrofuran and aqueous layers were independently washed with saturated brine. The organic layers were combined, dried over sodium sulfate, and concentrated under reduced pressure. To the residue thus obtained was added t-butyl methyl ether (89 g). Crystallization was initiated by further adding hexane (200 ml). The crystals were collected by filtration, washed with a small amount of a mixed solution of t-butyl methyl ether and hexane (½), and dried under reduced pressure. Thus, N-t-butyl-3-hydroxy-1-pentanesulfonamide (60.6 g) was obtained.

reactant | n-butyl lithium | 1.6 M, 520 ml | C(CCC)[Li]
reactant | diisopropylamine | 480 ml | C(C)(C)NC(C)C | C6H15N
reactant | N-t-butylmethane-sulfonamide | 100 ml, 60.0 g | C(C)(C)(C)NS(=O)(=O)C | C5H13NO2S
reactant | hydrochloric acid | Cl | ClH
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | butylene oxide | 50 ml, 42.9 g | C1CCCO1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | t-butyl methyl ether | 89 g | COC(C)(C)C | C5H12O
solvent | water | O | H2O
product | N-t-butyl-3-hydroxy-1-pentanesulfonamide | 60.6 g | C(C)(C)(C)NS(=O)(=O)CCC(CC)O | C9H21NO3S
